US07776857B2
Step 3: 7-bromo-4-hydroxy-1,5-naphthyridine-3-carboxylic acid
Ethyl 7-bromo-4-oxo-1,4-dihydro-1,5-naphtyridine-3-carboxylate (1 g, 3 mmol) and 2.5 M NaOH (10 mL) were refluxed for 1 h in a RBF fitted with a reflux condenser. The hot, heterogeneous mixture was diluted with boiling water at which point a tan precipitate dissolved. Charcoal was added to the solution, which was swirled for 2 min and then the mixture was filtered. Glacial acetic acid was added to the filtrate and a white precipitate started to form (pH adjusted to 4). The precipitate was filtered off upon cooling, washed with water and dried to provide the desired product as a white solid.

reactant | Ethyl 7-bromo-4-oxo-1,4-dihydro-1,5-naphtyridine-3-carboxylate | 3 mmol, 1 g | BrC1=CN=C2C(C(=CNC2=C1)C(=O)OCC)=O | C11H9BrN2O3
reactant | NaOH | 2.5 M, 10 mL | [OH-].[Na+]
reactant | Charcoal | C | CH4
solvent | water | O | H2O
product | 7-bromo-4-hydroxy-1,5-naphthyridine-3-carboxylic acid | BrC1=CN=C2C(=C(C=NC2=C1)C(=O)O)O | C9H5BrN2O3
